US08420816B2
4-(pyrrolidin-3-ylmethyl)-3,4-dihydropyrrolo[4,3,2-de][2,6]naphthyridine-5(1H)-one
To a solution of tert-butyl 3-((5-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)methyl)pyrrolidine-1-carboxylate (10 mg, 0.03 mmol) in dioxane at 0° C. was added 4N HCl in dioxane (0.019 mL, 0.075 mmol) and the reaction mixture was stirred for 1 h to give a solid. The solid was filtered and dried to afford the title compound (8.0 mg) as its HCl salt. 1H NMR (400 MHz, CD3OD) δ 1.90 (br. s., 1 H) 2.24 (br. s., 1 H) 2.96 (br. s.,1 H) 3.17 (br. s., 2 H) 3.59 (d, J=5.05 Hz, 1 H) 3.71-3.83 (m, 2 H) 3.87 (br. s., 1 H) 5.18 (br. s., 2 H) 7.64 (br. s., 1 H) 7.80 (br. s., 1 H) 8.55 (br. s., 1 H). [M+H] found 257.

reactant | tert-butyl 3-((5-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)methyl)pyrrolidine-1-carboxylate | 0.03 mmol, 10 mg | O=C1N(CC=2C=3C(=NC=CC13)NC2)CC2CN(CC2)C(=O)OC(C)(C)C | C19H24N4O3
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.075 mmol, 0.019 mL | O1CCOCC1 | C4H8O2
product | 4-(pyrrolidin-3-ylmethyl)-3,4-dihydropyrrolo[4,3,2-de][2,6]naphthyridine-5(1H)-one | 8.0 mg | N1CC(CC1)CN1C(C=2C=CN=C3C2C(C1)=CN3)=O | C14H16N4O
